US05624942
Synthesis of 4-methoxy-2-(3-thienylmethyloxy)-6-(meta-trifluoromethylphenoxy)pyridine (I-13)
To a solution containing meta-trifluoromethylphenol (1.40 g, 0.0021×4.0 mol), sodium hydride (0.25 g, (ca.60% in mineral oil), 0.0021×3.0 mol) and CuI (0.20 g, 0.0021×0.5 mol) in dimethylformamide, 2-chloro-4-methoxy-6-(3-thienylmethyloxy)pyridine (0.54 g, 0.0021 mol) was added and the resultant solution was refluxed for about 6 hours.

reactant | meta-trifluoromethylphenol | 4.0 mol, 1.40 g | FC(C=1C=C(C=CC1)O)(F)F | C7H5F3O
reactant | sodium hydride | 3.0 mol, 0.25 g | [H-].[Na+]
reactant | 2-chloro-4-methoxy-6-(3-thienylmethyloxy)pyridine | 0.0021 mol, 0.54 g | ClC1=NC(=CC(=C1)OC)OCC1=CSC=C1 | C11H10ClNO2S
solvent | dimethylformamide | CN(C=O)C | C3H7NO
catalyst | CuI | 0.5 mol, 0.20 g | [Cu]I
product | 4-methoxy-2-(3-thienylmethyloxy)-6-(meta-trifluoromethylphenoxy)pyridine | COC1=CC(=NC(=C1)OC1=CC(=CC=C1)C(F)(F)F)OCC1=CSC=C1 | C18H14F3NO3S
